US08236963B2
Intermediate 4: methyl (2Z)-(6-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)-acetate (cf. Schemes 1, 2, compound VII)
Following the general method as outlined for Intermediate 1, starting from 6-chloro isatin and methyl cyanoacetate, the title compound was isolated, after evaporation, as a dark brown solid in 84% yield. This was a 5.5:1 mixture of geometric isomers (98% purity by HPLC).

reactant | 6-chloro isatin | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | methyl cyanoacetate | C(#N)CC(=O)OC | C4H5NO2
product | methyl (2Z)-(6-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)-acetate | 84% yield | ClC1=CC=C2/C(/C(NC2=C1)=O)=C(/C(=O)OC)\C#N | C12H7ClN2O3
